US05034401
(±)5-[1-Hydroxy-2-(4-phenoxy-1-piperidyl)ethyl]-3H-indol-2-one.
A mixture of 4.19 g (20 mmoles) 5-chloroacetyl-3H-indol-2-one 4 g dry sodium carbonate, 4.27 g (20 mmoles) 4-phenoxypiperidine hydrochloride and 100 ml ethanol is heated under reflux fo 1 h 15 min under an argon atmosphere. The mixture is left to cool, 10 ml water, then 8 g potassium borohydride are added and stirring is continued for 2 h 30 min at ambient temperature. A further 200 ml water are added, the mixture is stirred for 30 min and filtered, and the solid is washed with water and dried. 4.67 g of oohre orystals are obtained, which are purified by chromatography on a silica column, eluting with a 95/5 mixture of dichloromethane/ methanol.

reactant | 5-chloroacetyl-3H-indol-2-one | 20 mmoles, 4.19 g | ClCC(=O)C=1C=C2CC(NC2=CC1)=O | C10H8ClNO2
reactant | 4-phenoxypiperidine hydrochloride | 20 mmoles, 4.27 g | Cl.O(C1=CC=CC=C1)C1CCNCC1
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | potassium borohydride | 8 g | [BH4-].[K+]
solvent | water | 200 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | (±)5-[1-Hydroxy-2-(4-phenoxy-1-piperidyl)ethyl]-3H-indol-2-one | OC(CN1CCC(CC1)OC1=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C21H24N2O3
